US07932271B2
4-Bromo-2-[(t-butyldimethylsilyloxy)methyl]-5-methylpyridine
Under a nitrogen atmosphere, imidazole (2.95 g, 43.3 mmol), 4-dimethylaminopyridine (481 mg, 3.94 mmol) and t-butylchlorodimethylsilane (6.53 g, 43.3 mmol) were added to a dichloromethane solution (100 ml) of (4-bromo-5-methylpyridin-2-yl)methanol (7.96 g, 39.4 mmol) under ice cooling. The resulting mixture was stirred at room temperature for 1 hour. Water was added to the reaction mixture, followed by extraction with dichloromethane. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=4:1 eluate was concentrated under reduced pressure to give the title compound (12.4 g, 39.4 mmol, quant.) as a pale yellow oil.

reactant | imidazole | 43.3 mmol, 2.95 g | N1C=NC=C1 | C3H4N2
reactant | t-butylchlorodimethylsilane | 43.3 mmol, 6.53 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | (4-bromo-5-methylpyridin-2-yl)methanol | 39.4 mmol, 7.96 g | BrC1=CC(=NC=C1C)CO | C7H8BrNO
catalyst | 4-dimethylaminopyridine | 3.94 mmol, 481 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
product | 4-Bromo-2-[(t-butyldimethylsilyloxy)methyl]-5-methylpyridine | 39.4 mmol, 12.4 g | BrC1=CC(=NC=C1C)CO[Si](C)(C)C(C)(C)C | C13H22BrNOSi
